US03971819
A mixture of 4-(p-chloroanilino)-3-nitro-5-sulphamyl-benzoic acid (7.43 g), water (50 ml), and concentrated aqueous ammonia (15 ml) was stirred at 25°C, and a solution of sodium dithionite (13.5 g) in water (50 ml) was added dropwise. After 1 hour, the pH of the reaction mixture was adjusted to 2.5, and the precipitated reaction product was filtered off. After repeated recrystallizations from aqueous ethanol, and after drying for 4 hours in vacuo, 3-amino-4-(p-chloroanilino)-5-sulphamyl-benzoic acid was obtained with a melting point of 273°-274°C.

reactant | 4-(p-chloroanilino)-3-nitro-5-sulphamyl-benzoic acid | 7.43 g | ClC1=CC=C(NC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)[N+](=O)[O-])C=C1 | C13H10ClN3O6S
reactant | ammonia | 15 ml | N | H3N
reactant | sodium dithionite | 13.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-amino-4-(p-chloroanilino)-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1NC1=CC=C(C=C1)Cl)S(N)(=O)=O | C13H12ClN3O4S
